US06548694B2
The (RS)-(4-carbamimidoyl-phenylamino)-[5-ethoxy-2-fluoro-4-(2-hydroxy-ethoxy)-phenyl]-acetic acid ethyl ester hydrochloride (456 mg) described in example 1.6 was dissolved in THF (3 ml). DMF (3 ml), triethylamine (106 mg) and phenylisocyanate (131 mg) were added and the mixture was stirred for 3 h at room temperature. The reaction mixture was concentrated and purified by column chromatography (hexane/ethyl acetate) to give 380 mg of (RS)-[4-(Amino-phenylcarbamoylimino-methyl)-phenylamino]-[5-ethoxy-2-fluoro-4-(2-hydroxy-ethoxy)-phenyl]-acetic acid ethyl ester as a colorless foam. MS: 539 ([M+H]+).

reactant | (RS)-(4-carbamimidoyl-phenylamino)-[5-ethoxy-2-fluoro-4-(2-hydroxy-ethoxy)-phenyl]-acetic acid ethyl ester hydrochloride | 456 mg | Cl.C(C)OC(C(C1=C(C=C(C(=C1)OCC)OCCO)F)NC1=CC=C(C=C1)C(N)=N)=O
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
reactant | triethylamine | 106 mg | C(C)N(CC)CC | C6H15N
reactant | phenylisocyanate | 131 mg | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | (RS)-[4-(Amino-phenylcarbamoylimino-methyl)-phenylamino]-[5-ethoxy-2-fluoro-4-(2-hydroxy-ethoxy)-phenyl]-acetic acid ethyl ester | 380 mg | C(C)OC(C(C1=C(C=C(C(=C1)OCC)OCCO)F)NC1=CC=C(C=C1)C(=NC(NC1=CC=CC=C1)=O)N)=O | C28H31FN4O6
